US06716878B1
STEP B: [1(S)-(Methoxy-methyl-carbamoyl)-2,2-dimethylpropyl]-carbamic Acid-tert-butyl Ester
To a solution of 2(S)-tert-butoxycarbonylamino-3,3-dimethyl-butyric acid (30 g, 0.13 mol) in dichloromethane (400 mL) was added portionwise 1,1′-carbonyidiimidazole (63.3 g, 0.39 mol). After addition was complete the reaction was allowed to stir for 15 minutes before N-methoxy-N-methylamine hydrochloride (38 g, 0.39 mol) was added and the reaction allowed to stir for 16 hours. The solvents were removed in vacuo and the residue partitioned between ethyl acetate (250 mL) and 1M HCl (150 mL). The organic phase was washed with 1M HCl solution (2×100 mL), saturated sodium bicarbonate solution (2×100 mL) and brine (100 mL). The organic phase was dried over MgSO4, filtered and the solvents removed in vacuo to give a crude yellow oil. Purification by column chromatography (SiO2, 30% ethyl acetate in hexanes) afforded the title product as a pale yellow oil (26.5 g, 74%).

reactant | 2(S)-tert-butoxycarbonylamino-3,3-dimethyl-butyric acid | 0.13 mol, 30 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C(C)(C)C | C11H21NO4
reactant | 1,1′-carbonyidiimidazole | 0.39 mol, 63.3 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-methoxy-N-methylamine hydrochloride | 0.39 mol, 38 g | Cl.CONC
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
product | [1(S)-(Methoxy-methyl-carbamoyl)-2,2-dimethylpropyl]-carbamic Acid-tert-butyl Ester | 26.5 g, 74% | C(C)(C)(C)OC(N[C@@H](C(C)(C)C)C(N(C)OC)=O)=O | C13H26N2O4
